US05589326
E. 4,7-Diethyl-1,10-Phenanthroline
4-Ethyl-8-nitroquinoline is reduced to 4-ethyl-8-aminoquinoline by catalytic reduction with Adams' catalyst as follows: place a solution of 0.05 moles of 4-ethyl-8-nitroquinoline in 100 ml of rectified spirit (ethyl alcohol) together with 0.1 g of Adams' catalyst (platinum (IV) oxide, available from Aldrich Chemical Co., Inc.) in a hydrogenation flask, and shake in hydrogen. After the theoretical volume of hydrogen is absorbed, filter off the platinum with suction and rinse the reaction vessel with rectified spirits. Evaporate the alcohol from the combined filtrate and washings on a water bath. Dissolve the crude residue in rectified spirits, add a little decolorizing charcoal, boil and filter. Heat the filtrate to boiling, add hot water to initiate crystallization and allow to cool.

reactant | 4-Ethyl-8-nitroquinoline | C(C)C1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C11H10N2O2
reactant | 4-ethyl-8-aminoquinoline | C(C)C1=CC=NC2=C(C=CC=C12)N | C11H12N2
reactant | 4-ethyl-8-nitroquinoline | 0.05 moles | C(C)C1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C11H10N2O2
reactant | ethyl alcohol | C(C)O | C2H6O
catalyst | Adams' catalyst | O=[Pt]=O
catalyst | Adams' catalyst | 0.1 g | O=[Pt]=O
solvent | hydrogen | [H][H] | H2
product | 4,7-Diethyl-1,10-Phenanthroline | C(C)C1=CC=NC2=C3N=CC=C(C3=CC=C12)CC | C16H16N2
